US09301990B2
Step c: (S)-2-[(S)-3-Amino-4-(4-fluoro-phenyl)-butyrylamino]-6-{[(4-methoxy-phenyl)-diphenyl-methyl]-amino}-hexanoic acid (4-hydroxymethyl-phenyl)-amide
In a 50 mL round-bottomed flask, the above prepared {(S)-2-(4-fluoro-phenyl)-1-[((S)-1-(4-hydroxymethyl-phenylcarbamoyl)-5-{[(4-methoxy-phenyl)-diphenyl-methyl]-amino}-pentylcarbamoyl)-methyl]-ethyl}-carbamic acid 9H-fluoren-9-ylmethyl ester (793 mg, 857 mol, Eq: 1.001) was combined with THF (12 ml) to give a brownish solution. At 0°, diethylamine (1.13 g, 1.59 ml, 15.4 mmol, Eq: 18) was added. The reaction was stirred at ambient temperature over night. The mixture was poured onto crashed ice/NH4Cl (pH ˜7), extracted 2× with AcOEt, washed with H2O and brine, dried over Na2SO4, and evaporated to dryness. Flash chromatography SiO2/10% MeOH/0.1% NEt3 in CH2Cl2 yielded 500 mg of the title compound as off-white solid. MS: expected mass: 702.3581, found mass: 702.3578.

reactant | {(S)-2-(4-fluoro-phenyl)-1-[((S)-1-(4-hydroxymethyl-phenylcarbamoyl)-5-{[(4-methoxy-phenyl)-diphenyl-methyl]-amino}-pentylcarbamoyl)-methyl]-ethyl}-carbamic acid 9H-fluoren-9-ylmethyl ester | 857 mol, 793 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](CC1=CC=C(C=C1)F)CC(N[C@@H](CCCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)OC)C(NC1=CC=C(C=C1)CO)=O)=O)=O | C58H57FN4O6
reactant | diethylamine | 15.4 mmol, 1.59 ml, 1.13 g | C(C)NCC | C4H11N
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | (S)-2-[(S)-3-Amino-4-(4-fluoro-phenyl)-butyrylamino]-6-{[(4-methoxy-phenyl)-diphenyl-methyl]-amino}-hexanoic acid (4-hydroxymethyl-phenyl)-amide | 500 mg | OCC1=CC=C(C=C1)NC([C@H](CCCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)OC)NC(C[C@H](CC1=CC=C(C=C1)F)N)=O)=O | C43H47FN4O4
